US08604036B2
4-(6-Oxo-1,6-dihydropyridazin-3-yl)benzonitrile
50 g of 4-acetylbenzonitrile is converted into the pyridazinone in accordance with GWP 1.

reactant | 4-acetylbenzonitrile | 50 g | C(C)(=O)C1=CC=C(C#N)C=C1 | C9H7NO
reactant | pyridazinone | N=1NC(C=CC1)=O | C4H4N2O
product | 4-(6-Oxo-1,6-dihydropyridazin-3-yl)benzonitrile | O=C1C=CC(=NN1)C1=CC=C(C#N)C=C1 | C11H7N3O
